US06599937B1
Synthesis of 3,4-Dimethyoxycinnamoyloxymethyl Butyrate (DiMeOCOMB)
To a stirred solution of 3,4-dimethoxycinnamic acid (5 g, 24 mmol) and chloromethyl butyrate (3.3 g, 1 eq.) in dry dimethylformamide (20 mL), under nitrogen was dropwise added triethylamine (4 mL, 2.3 g, 1.2 eq). The reaction mixture was heated to 70° C. overnight; during that time a large amount of precipitate formed and TLC (ethyl acetate:hexane 1:2) showed that all the acid had reacted. The precipitate was filtered and washed with ethyl acetate. The filtrate was partitioned between water and ethyl acetate. The aqueous phase was washed with a small amount of ethyl acetate, and the combined organic phase was washed with water (3×), 5% solution of NaHCO3 (2×), and brine (2×), dried with MgSO4 and evaporated to give crude product as a yellow heavy oil (5.7 g). The crude product was chromatographed on silica gel (200 g, ethyl acetate:hexane 1:3) to give the pure product (second fraction) as a colorless oil (4.7 g, 64% yield).

reactant | 3,4-dimethoxycinnamic acid | 24 mmol, 5 g | COC=1C=C(C=CC(=O)O)C=CC1OC | C11H12O4
reactant | chloromethyl butyrate | 3.3 g, 1 eq. | C(CCC)(=O)OCCl | C5H9ClO2
reactant | triethylamine | 4 mL, 2.3 g, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3,4-Dimethyoxycinnamoyloxymethyl Butyrate | 4.7 g, 64% yield | C(CCC)(=O)OCOC(C=CC1=CC(=C(C=C1)OC)OC)=O | C16H20O6
